US04031221
A solution of 40.0 g of 1-benzyl-4-piperidinol in 75 ml. of dimethylformamide is added slowly to a stirred suspension of 6.7 g of a 50% oil dispersion of sodium hydride in 300 ml. of dimethylformamide at 60°-70° C. After addition is complete, heating is continued until no more hydrogen gas is liberated. A solution of 39.5 g of 1-fluoro-4-trifluoromethylbenzene in 50 ml. of dimethylformamide is added slowly while maintaining the reaction temperature at 60°-70° C. After addition is complete, stirring and heating at 70°-75° C. is continued for 16 hours. The mixture is poured into 1 l. of water and extracted with benzene. The combined benzene extracts are washed with water, dried, and solvent is removed under reduced pressure, leaving an oil. The oil is taken up in isopropanol and treated with ethereal-HCl, giving a white solid of 1-benzyl-4-(p-trifluoromethylphenoxy)piperidine hydrochloride.

reactant | 1-benzyl-4-piperidinol | 40.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-fluoro-4-trifluoromethylbenzene | 39.5 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-benzyl-4-(p-trifluoromethylphenoxy)piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F | InChI=1S/C19H20F3NO.ClH/c20-19(21,22)16-6-8-17(9-7-16)24-18-10-12-23(13-11-18)14-15-4-2-1-3-5-15;/h1-9,18H,10-14H2;1H
